US09169248B2
To a solution of 5-iodo-2-methyl-4-(trifluoromethyl)-1H-imidazole (1.98 g, 7.2 mmol) in DME (20 mL) and H2O (4 mL) was added K2CO3 (10 g, 71.9 mmol), trivinylboronic anhydride pyridine complex (1.73 g, 7.19 mmol) and Pd(PPh3)4 (830 mg, 0.719 mmol). The resulting reaction mixture was stirred at 80° C. for 3 h. MeOH (100 mL) was then added to the reaction mixture and the mixture was filtered, concentrated in vacuo, and purified by flash chromatography (SiO2, 10% MeOH/CH2Cl2) to obtain 2-methyl-4-(trifluoromethyl)-5-vinyl-1H-imidazole (911 mg, 5.17 mmol, 72% yield) as a brown syrup.

reactant | 5-iodo-2-methyl-4-(trifluoromethyl)-1H-imidazole | 7.2 mmol, 1.98 g | IC1=C(N=C(N1)C)C(F)(F)F | C5H4F3IN2
reactant | K2CO3 | 71.9 mmol, 10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeOH | 100 mL | CO | CH4O
reactant | DME | 20 mL | COCCOC | C4H10O2
solvent | H2O | 4 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.719 mmol, 830 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-methyl-4-(trifluoromethyl)-5-vinyl-1H-imidazole | 5.17 mmol, 911 mg, 72% yield | CC=1NC(=C(N1)C(F)(F)F)C=C | C7H7F3N2
